US05698691
(3) 7-Chloro-5-(2-chlorophenyl)-2,4-dioxo-1-neopentyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine-3-acetic acid ethyl ester
To a solution of 7-chloro-5-(2-chlorophenyl)-2,4-dioxo-1-neopentyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine (0.3 g) and chloroacetic acid ethyl ester (0.11 ml) in dimethylformamide (2 ml) was added sodium hydride (60% oil, 40 mg), and the mixture was stirred for 30 minutes at room temperature. To the reaction mixture were further added sodium hydride (40 mg×3) and chloroacetic acid ethyl ester (0.11 ml), which was stirred for 3 hours. To the mixture was then added acetic acid ethyl ester (50 ml), which was washed with water. The solvent was distilled off, and the residue was purified by means of a silica-gel column chromatography (hexane:acetic acid ethyl ester=4:1 v/v as an eluent) to give 0.25 g of colorless crystals, m.p. 152°-153° C.

reactant | 7-chloro-5-(2-chlorophenyl)-2,4-dioxo-1-neopentyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine | 0.3 g | ClC1=CC2=C(N(C(CC(N2C2=C(C=CC=C2)Cl)=O)=O)CC(C)(C)C)C=C1 | C20H20Cl2N2O2
reactant | chloroacetic acid ethyl ester | 0.11 ml | C(C)OC(CCl)=O | C4H7ClO2
reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | chloroacetic acid ethyl ester | 0.11 ml | C(C)OC(CCl)=O | C4H7ClO2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 7-Chloro-5-(2-chlorophenyl)-2,4-dioxo-1-neopentyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine-3-acetic acid ethyl ester | 0.25 g | C(C)OC(CC1C(N(C2=C(N(C1=O)CC(C)(C)C)C=CC(=C2)Cl)C2=C(C=CC=C2)Cl)=O)=O | C24H26Cl2N2O4
